US04021539
N-(β-morpholino-ethyl)-glucamine
The product was made from D-glucose and N-(β-aminoethyl)-morpholine comparable as in Example A. A resin-like, colorless product was obtained.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | N-(β-aminoethyl)-morpholine | NCCN1CCOCC1 | C6H14N2O
product | N-(β-morpholino-ethyl)-glucamine | O1CCN(CC1)CCNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C12H26N2O6
